US07977343B2
12.1 20 g of (2R,4S)-4-hydroxyproline ethyl ester are suspended in 200 ml of dichloromethane under argon, and 42.5 ml of triethylamine are added. 1.25 g of 4-(dimethylamino)pyridine are then added, and a solution of 25.04 g of di-tert-butyl dicarbonate in 150 ml of dichloromethane is added dropwise. The mixture is stirred for a further 16 hours and subjected to conventional work-up, giving 28.01 g of 1-tert-butyloxycarbonyl-(2R,4S)-4-hydroxyproline ethyl ester as an oil.

reactant | (2R,4S)-4-hydroxyproline ethyl ester | C(C)OC([C@@H]1NC[C@H](C1)O)=O | C7H13NO3
reactant | triethylamine | 42.5 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 25.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 1.25 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-tert-butyloxycarbonyl-(2R,4S)-4-hydroxyproline ethyl ester | 28.01 g | C(C)OC([C@@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C)=O | C12H21NO5
